US04148897
In 100 ml. of ethanol is dissolved a mixture of 1 g. of 6-methoxy-5-nitro-3,4-dihydro-1(2H)-naphthalenone and 3 g. of morpholine hydrochloride and the mixed solution is reacted at 80° C. for 10 hours. The reaction mixture is cooled and, following addition of 500 ml. of water, it is shaken with 100 ml. of diethyl ether. The water layer is neutralized with sodium hydrogen carbonate and extracted with chloroform. The extract is dried and distilled under reduced pressure to remove the solvent. By the above procedure is obtained 6-methoxy-2-morpholinomethyl-5-nitro-3,4-dihydro-1(2H)-naphthalenone as an oily product. This product is dissolved in 50 ml. of methanol and, after addition of 1 g. of sodium borohydride, the solution is stirred at room temperature for 30 minutes. To this reaction mixture is added 500 ml. of water and the mixture is extracted with chloroform. The extract is dried and distilled under reduced pressure to remove the solvent. The above procedure provides an oil of 6-methoxy-2-morpholinomethyl-5-nitro-1,2,3,4-tetrahydro-1-naphthalenol. This product is dissolved in 20 ml. of ethanolic hydrochloric acid and the solution is heated at 80° C. for 1 hour. Following the addition of 50 ml. of ethyl acetate, the solution is cooled, whereupon 0.35 g. of 7-methoxy-3-morpholinomethyl-8-nitro-1,2-dihydronaphthalene hydrochloride is obtained as pale-yellow prisms melting at 200°-270° C. (gradually decomposed).

reactant | ethanol | C(C)O | C2H6O
reactant | 6-methoxy-5-nitro-3,4-dihydro-1(2H)-naphthalenone | COC=1C(=C2CCCC(C2=CC1)=O)[N+](=O)[O-] | C11H11NO4
reactant | morpholine hydrochloride | Cl.N1CCOCC1
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-methoxy-2-morpholinomethyl-5-nitro-3,4-dihydro-1(2H)-naphthalenone | COC=1C(=C2CCC(C(C2=CC1)=O)CN1CCOCC1)[N+](=O)[O-] | C16H20N2O5
